US04999377
To a stirred slurry of finely powdered isooxazolidine hydrochloride (H. King, J. Chem. Soc. 433,1942) (11.0 g) in dry ether (200 ml) at 0° C. was added triethylamine (28.0 ml) and a solution of chloroacetyl chloride (8.0 ml) in ether (50 ml). The reaction mixture was stirred for a further 4 hours, whilst the temperature rose to room temperature. The precipitate triethylamine hydrochloride was filtered off through diatomaceous earth and the filter bed washed well with ether. The combined ether solutions were evaporated to give N-chloroacetyl isooxazolidine as an oil (11.5 g) NMR (CDCl3) 2.38[quintet, 2H, CH2 ], 3.78[t,2H, NCH2 ], 4.05[t,2H, OCH2 ]and 4.22 [s,2H, ClCH2CO].

reactant | isooxazolidine hydrochloride | 11.0 g | Cl.O1NCCC1
reactant | triethylamine | 28.0 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 8.0 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | N-chloroacetyl isooxazolidine | 11.5 g | ClCC(=O)N1OCCC1 | C5H8ClNO2
